US07687502B2
N-Pyrazin-2-yl-6-(4H-1,2,4-triazol-3-ylsulfanyl)-pyrido[3,2-d]pyrimidin-4-yl-amine
The compound of Example 64 was manufactured by the same method as in Example 31, by a similar method thereto or by a combination of such a method with a conventional method using 3-mercapto-4H-[1,2,4]triazole, 2-amino-pyrazine and 4,6-dichloro-pyrido[3,2-d]pyrimidine.

reactant | 3-mercapto-4H-[1,2,4]triazole | SC1=NN=CN1 | C2H3N3S
reactant | 2-amino-pyrazine | NC1=NC=CN=C1 | C4H5N3
reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
product | N-Pyrazin-2-yl-6-(4H-1,2,4-triazol-3-ylsulfanyl)-pyrido[3,2-d]pyrimidin-4-yl-amine | N1=C(C=NC=C1)NC=1C2=C(N=CN1)C=CC(=N2)SC2=NN=CN2 | C13H9N9S
